US05824802
14. Preparation of 1-Ethyl-4-(2-chloro-3-(morpholin-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole (Compound 23)
A solution of 1.5 g (4.1 mmol) of 1-ethyl-4-(2,3-dichloro-4-methylsulfonylbenzoyl)-5-hydroxypyrazole in 30 mL of morpholine was heated at 100° C. with stirring for 2 days. The reaction mixture was then diluted with water, washed with diethyl ether, and acidified with hydrochloric acid. The resulting solution was extracted with dichloromethane and the extract was concentrated by evaporation under reduced pressure. The resulting residue was recrystallized from ethanol/dichloromethane to obtain to 0.33 g (20 percent of theory) of the title compound as a white solid.

reactant | 1-ethyl-4-(2,3-dichloro-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | 4.1 mmol, 1.5 g | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)Cl)Cl)=O | C13H12Cl2N2O4S
reactant | morpholine | 30 mL | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | 1-Ethyl-4-(2-chloro-3-(morpholin-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)N1CCOCC1)Cl)=O | C17H20ClN3O5S
